US07547691B2
2-{5-Chloro-2-[3-(4-ethyl-1-methylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide di-hydrochloride
Using the method of 2-{5-chloro-2-[3-(4-ethyl-1-methylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride, the title compound is synthesized from 2-{5-chloro-2-[3-(4-ethylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide di-hydrochloride and isolated as a yellow solid. ES+(m/z) 486 (35Cl) and 488 (37Cl) [M(free base)+H].

reactant | 2-{5-chloro-2-[3-(4-ethyl-1-methylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride | Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCC2(CCN(CC2)C)CC
reactant | 2-{5-chloro-2-[3-(4-ethylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide di-hydrochloride | Cl.Cl.CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCC2(CCNCC2)CC
product | 2-{5-Chloro-2-[3-(4-ethyl-1-methylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide di-hydrochloride | Cl.Cl.CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCC2(CCN(CC2)C)CC | InChI=1S/C25H32ClN5OS.2ClH/c1-4-25(10-13-31(3)14-11-25)9-6-12-28-24-29-16-19(26)22(30-24)21-15-18-17(23(32)27-2)7-5-8-20(18)33-21;;/h5,7-8,15-16H,4,6,9-14H2,1-3H3,(H,27,32)(H,28,29,30);2*1H
